US06316482B1
To a solution of 2-amino-3-nitrobenzoic acid (4.47 g) in 1,2-dichloroethane (50 ml) was added trifluoroacetic anhydride (10.3 g) at 5° C. and the mixture was stirred at ambient temperature for 5 hours. To the mixture was added trifluoroacetic anhydride (5.15 g) and it was stirred at ambient temperature for additional 1 hour. The solution was concentrated in vacuo to give 8-nitro-2-trifluoromethyl-3,1-benzoxazin-4-one as a slight yellow powder (6.35 g).

reactant | 2-amino-3-nitrobenzoic acid | 4.47 g | NC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H6N2O4
reactant | trifluoroacetic anhydride | 10.3 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic anhydride | 5.15 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 8-nitro-2-trifluoromethyl-3,1-benzoxazin-4-one | 6.35 g | [N+](=O)([O-])C1=CC=CC=2C(OC(=NC21)C(F)(F)F)=O | C9H3F3N2O4
